US07625922B2
4-Chloro-N-methyl-3-nitropyridin-2-amine
2-Amino-4-chloro-3-nitropyridine (590 mg, 4 mmol) was dissolved in dry THF (15 mL), the solution was cooled to 0° C. and NaH (240 mg, 6 mmol) was added. The reaction mixture was stirred for 2 hours, and allowed to warm at room temperature. The solvent was evaporated and the residue extracted between AcOEt and water. The organic layer was dried (MgSO4) and evaporated. The crude mixture was purified by column chromatography (eluent DCM) to afford the title compound (190 mg, 25%). 1H-NMR (6, ppm, DMSO-d6): 2.88 (d, 3H, Me, J=4.55 Hz), 6.86 (d, 1H, HPy,5, J=5.31 Hz), 7.44 (broad s, 1H, NH), 8.21 (d, 1H, HPy,5, J=5.30 Hz).

reactant | 2-Amino-4-chloro-3-nitropyridine | 4 mmol, 590 mg | NC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | NaH | 6 mmol, 240 mg | [H-].[Na+]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Chloro-N-methyl-3-nitropyridin-2-amine | 190 mg, 25% | ClC1=C(C(=NC=C1)NC)[N+](=O)[O-] | C6H6ClN3O2
